US08530504B2
tert-Butyl(3-bromo-2,6-dimethylpyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate
A tetrahydrofuran (10 mL) solution of tert-butyl(2,6-dimethylpyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate (266 mg, 0.995 mmol) was cooled to −78° C., and n-butyllithium (2.64M, 0.829 mL, 2.19 mmol) was added dropwise and the mixture was stirred for 10 minutes. Then, 1,2-dibromotetrafluoroethane (0.142 ml, 1.19 mmol) was added to the mixture, and the reaction mixture was warmed to room temperature and stirred at room temperature over one day and night. To the reaction mixture, a saturated aqueous solution of ammonium chloride was added, and a substance of interest was extracted with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by medium pressure silica gel column chromatography (n-heptane/ethyl acetate: 3/1 then 2/1) to obtain the title compound (203 mg, 0.586 mmol).

reactant | tert-butyl(2,6-dimethylpyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate | 0.995 mmol, 266 mg | C(C)(C)(C)OC(NC=1C(=NN2C1SC(=C2)C)C)=O | C12H17N3O2S
reactant | n-butyllithium | 2.19 mmol, 2.64M, 0.829 mL | C(CCC)[Li]
reactant | 1,2-dibromotetrafluoroethane | 1.19 mmol, 0.142 ml | BrC(C(Br)(F)F)(F)F | C2Br2F4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | tert-Butyl(3-bromo-2,6-dimethylpyrazolo[5,1-b][1,3]thiazol-7-yl)carbamate | 0.586 mmol, 203 mg | C(C)(C)(C)OC(NC=1C(=NN2C1SC(=C2Br)C)C)=O | C12H16BrN3O2S
